US07902373B2
To a vial containing 6-[4-({[6-(3-fluorophenyl)pyridin-3-yl]carbonyl}amino)piperidin-1-yl]nicotinic acid (63.07 mg, 0.15 mmol) was added 0.375 mL of DMA, EDC (31.6 mg, 0.16 mmol), HOBt (20.3 mg, 0.15 mmol), NMM (0.04 mL, 0.37 mmol) and 2-(ethylamino)ethanol (13.4 mg, 0.15 mmol). The reaction mixture was stirred at room temperature for 12 hours and then diluted with water and ethyl acetate. The layers were separated and the organic layer collected and concentrated to give an oil, which was purified by RP-HPLC to give N-ethyl-6-[4-({[6-(3-fluorophenyl)pyridin-3-yl]carbonyl}amino)piperidin-1-yl]-N-(2-hydroxyethyl)nicotinamide

reactant | 6-[4-({[6-(3-fluorophenyl)pyridin-3-yl]carbonyl}amino)piperidin-1-yl]nicotinic acid | 0.15 mmol, 63.07 mg | FC=1C=C(C=CC1)C1=CC=C(C=N1)C(=O)NC1CCN(CC1)C1=NC=C(C(=O)O)C=C1 | C23H21FN4O3
reactant | EDC | 0.16 mmol, 31.6 mg
reactant | HOBt | 0.15 mmol, 20.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 0.37 mmol, 0.04 mL | CN1CCOCC1 | C5H11NO
reactant | 2-(ethylamino)ethanol | 0.15 mmol, 13.4 mg | C(C)NCCO | C4H11NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMA | 0.375 mL | CC(=O)N(C)C | C4H9NO
product | N-ethyl-6-[4-({[6-(3-fluorophenyl)pyridin-3-yl]carbonyl}amino)piperidin-1-yl]-N-(2-hydroxyethyl)nicotinamide | C(C)N(C(C1=CN=C(C=C1)N1CCC(CC1)NC(=O)C=1C=NC(=CC1)C1=CC(=CC=C1)F)=O)CCO | C27H30FN5O3
